Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2](/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1]=[C:2](/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-7.768504041769999
[H:1][C:2]#[C:3][C:4][O:7][C:8]([H:9])([H:10])[H:11].[O:5][H:6]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11],-5.29876408995
[H:1][O:2][C:3]#[C:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]#[C:4][C:5](=[C:6][H:7])[C:9]([H:10])([H:11])[H:12].[H:8],5.06958254773
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.504595807519999
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[H:7])[C:9]([H:10])([H:11])[H:12].[H:8],1.71743821531
[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]=[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15],-4.77244105551
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])=[C:5][H:6],4.35397546617
[H:1][O:2]/[C:3]([H:4])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.71235624849
[C:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-3.75181910809
[H:1][C:2]1[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10]1>>[H:1][C:2]([C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9])=[O:10],-0.636691966431
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@:9]1([H:10])[C:11][C:12]1[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]#[C:12][H:13],-1.66761387802
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-2.29931499666
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][C:4]([H:5])([H:6])[O:7]/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:3],5.3006179599
[H:1][C:2]([C:3][C:7]([H:8])([H:9])[H:10])([H:13])[C:14]([C:11](=[C:6]([H:4])[H:5])[H:12])([H:15])[H:16]>>[H:1][C:2]1[C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]1([H:15])[H:16],-1.5067548111000002
[H:1][O:2][C:3]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.14863394827
[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7][H:8].[O:9][H:10],6.00620168041
[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([C:6]#[C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9],2.0256906476
[C:6]([H:7])([H:8])=[C:9][C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],1.20589897938
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10]>>[H:10].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9],3.96109348244
[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-3.74941366711
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C@:7]([H:8])([C:9]([H:10])=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C@:7]([H:8])([C:9]([H:10])=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1],4.86679993375
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:8],1.7954759641900002
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11].[H:1][C:2]#[C:3],5.63747039478
[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-7.26145704
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:5]([H:6])([H:7])=[C:8]=[C:9]([H:10])[H:11].[O:1][O:2][C:3][H:4],2.02591188822
[H:12].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.56484451885
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9].[O:10][H:11],5.3927196869800005
